US08541457B2
Synthesis of 2-(2,4-Dichlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2,4-dichlorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 21% yield; 1H NMR (CDCl3, 300 MHz) δ 7.74 (d, J=8.3 Hz, 1H), 7.45-7.24 (m, 7H), 5.99 (s, 1H), 4.57 (d, J=5.4 Hz, 2H), 2.35 (s, 3H); MS (ES+) m/z 420.0 (M+1).

reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(2,4-Dichlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 21% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=C(C=C1)Cl)Cl)=O)C | C19H15Cl2N3O2S
